US04808580
To 160 ml thionyl chloride 64.0 g (0.32 mol) of 1-(1-naphthyl)-2-thiourea was added portionwise while the temperature of the reaction mixture was kept at 30°-40° (internal temperature). After the addition was completed, an additional 80 ml of thionyl chloride was added and the mixture was heated at 50°-55° for 4 hours. It was cooled to room temperature and diluted with 400 ml of ethyl acetate and filtered. The filtrate in 400 ml of water was basified with concentrated ammonium hydroxide and the aqueous suspension was extracted with ethyl acetate (3×200 ml). The combined ethyl acetate solutions were dried (MgSO4) and the solvent was removed under reduced pressure to give 46.6 g (74%) of naphtho[1,2-d]thiazol-2-amine, mp 186°-188°.

reactant | thionyl chloride | 0.32 mol, 160 ml, 64.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(1-naphthyl)-2-thiourea | C1(=CC=CC2=CC=CC=C12)NC(=S)N | C11H10N2S
reactant | thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | naphtho[1,2-d]thiazol-2-amine | 46.6 g, 74% | N1=C(SC2=C1C1=CC=CC=C1C=C2)N | C11H8N2S
